US08314098B2
(Step 2): 5-Chloro-7-morpholin-4-yl-3-phenyl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (2 mL), 5,7-dichloro-3-phenyl-pyrazolo-[1,5-a]pyrimidine (47.7 mg, 0.181 mM), then morpholine (31.6 μL, 0.362 mM) was added to the solution and the resulting mixture was stirred at room temperature for 30 minutes. The solvent was distilled off from this reaction mixture, the resulting residue was diluted with water and extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was then distilled off, and the resulting solid was washed with methanol to thus obtain the title compound (46.8 mg, yield: 82%).

reactant | 5,7-dichloro-3-phenyl-pyrazolo-[1,5-a]pyrimidine | 0.181 mM, 47.7 mg | ClC1=NC=2N(C(=C1)Cl)N=CC2C2=CC=CC=C2 | C12H7Cl2N3
reactant | morpholine | 0.362 mM, 31.6 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-7-morpholin-4-yl-3-phenyl-pyrazolo[1,5-a]pyrimidine | 46.8 mg, yield: 82% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=CC2C2=CC=CC=C2 | C16H15ClN4O
